US03961937
1-(METHYLCARBAMOYLOXY)-6-CHLORO-5,7-DIBROMO-2-(TRIFLUOROMETHYL)-1H-IMIDAZO(4,5-b)PYRIDINE
6-Chloro-5,7-dibromo-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine (0.9 gram) was mixed with ether (15 milliliters) and methyl isocyanate (2 milliliters) and stirred for 15 minutes. Triethylamine (0.01 milliliter) was added, and the solution became homogenous. It was permitted to stand for 16 hours, diluted with 50 milliliters diethyl ether; washed with 0.5N HCl, water, and saturated NaCl; then dried over magnesium sulfate, and evaporated. The resulting 1-(methylcarbamoyloxy)-6-chloro-5,7-dibromo-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine product was recrystallized from chloroform, m.p., 216°C.

reactant | 6-Chloro-5,7-dibromo-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine | 0.9 gram | ClC=1C(=C2C(=NC1Br)N=C(N2O)C(F)(F)F)Br | C7HBr2ClF3N3O
reactant | methyl isocyanate | 2 milliliters | CN=C=O | C2H3NO
reactant | Triethylamine | 0.01 milliliter | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 50 milliliters | C(C)OCC | C4H10O
solvent | ether | 15 milliliters | CCOCC | C4H10O
product | 1-(METHYLCARBAMOYLOXY)-6-CHLORO-5,7-DIBROMO-2-(TRIFLUOROMETHYL)-1H-IMIDAZO(4,5-b)PYRIDINE | CNC(=O)ON1C(=NC2=NC(=C(C(=C21)Br)Cl)Br)C(F)(F)F | C9H4Br2ClF3N4O2
